Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Glucophage
 
Attending: ___.
 
Chief Complaint:
"Could not get out of bed" - acute worsening of chronic 
bilateral leg weakness.
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
He is a ___ year-old right-handed man with a past medical history 
significant for hyperlipidemia,HTN, DMII, melanoma, and a 
peripheral neuropathy who awoke this morning unable to get out 
of bed. The patient awoke with severe bilateral lower extremity 
weakness worse than the baseline hip flexor weakness that he
sustained after his bilateral knee operations in ___ (He said 
"I have illiopsoas weakness since my knee operations). 

At baseline he is able to walk independantly with a cane. He 
called his brother in law who came over to find the patient 
still in bed. EMS was called and the patient was brought to 
___. He reports not knowing what could have caused such a 
predicament until an EMT asked if he had back pain. He reports a 
fall two weeks ago, tripping on his grandchildren's toys. He has 
had low back pain since then. He denied head trauma or LOC. He 
admits to urinary incontinence, but says this is not new. He was 
told by a urologist that he has difficulty emptying his bladder 
(BPH on PMH list). No fecal incontinence. A head CT and spine 
CT's at ___ only revealed bilateral frontal hygromas and 
T12 and L1 fractures of uncertain age.  

 
The patient has also had a bi-occipital headache today. This is 
a sharp pain behind each ear. There are no associated nausea, 
vomitting or vision changes.  

 
In the ED here the patient was sent for a head CT- which showed 
hygromas unchanged from ___. He was found to have high 
blood pressure with the systolic in the 220s. He was given 
Labetolol 20mg IV x1 and then asked to repeat (uncertain number 
of times) without effect. He was given 1 inch of nitropaste and 
a NTG gtt was hung with good effect.  

 
Of interest the patient notes a left visual field cut that he 
attributed to a prior migraine. He also noted that when he had 
difficulty in the past with walking he was told that he had 
white spots in his "balance center" consistent with old strokes. 
 

 
On ROS he notes coughing all of the time. Negative ROS 
otherwise.
 
Past Medical History:
Hyperlipidemia  
HTN  
DM  
GERD  
Melanoma  
BPH  
Peripheral neuropathy  
Gout  
COPD  
Depression 
OSA - CPAP at home at night 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
PE:
 
Vitals: T 97.5 BP141/66 (SBP 141-154 since on F3) P59 RR22
O2sat96% on @2L NA

Gen Appearance: Obese ___ male - resting, pill-rolling tremor 
in
R hand.  Large elliptical scar on R lower back (melanoma 
excision
site).

Mental status: Awake and alert. Oriented to person, place, and
date. Attentive, says ___ backwards with mild halt around ___
but able to complete. Speech is fluent with normal comprehension
and repetition; naming intact. Pt registered ___ words.  No
dysarthria. No right-left confusion. No evidence neglect.
 
CN: 
I: not tested
II: Pupils symmetric and equally reactive and brisk to light
(3-->2mm); L inferior quadroanopia
III, IV & VI: Extraocular movements intact bilaterally without
nystagmus. 
V:Sensation intact V1-V3 (LT and pin prick) 
VII:Facial movement symmetric. 
VIII:Hearing intact to finger rub bilaterally. 
X:Palate elevation symmetric. 
XI:Sternocleidomastoid and trapezius full strength bilaterally.
XII:Tongue midline, movements intact.
 
Motor: Normal bulk and tone bilaterally. No observed myoclonus 
or
asterixis. Mild bilateral pronator drift (R>L). Positive resting
tremor on R but no action tremor.
  Del Tri Bi  WE FE FF  IP  H  Q DF PF TE 
R  ___  ___   4+   ___  5  5  
L  ___  ___   4-   ___  5  5    
 
Sensation: Intact to light touch, pinprick and cold sensation
throughout above the waist.  Decreased pin prick sensation in
ankle area and L2 distribution R and LLEs. Decreased cold
sensation in L2 distribution bilaterally as well.  
 
Reflexes: 2+ and symmetric for biceps and tricepts but none on R
and L patellar and achilles. Toes upgoing on L but downgoing in
R.
 
Coordination: Intermittently inaccurate finger-nose-finger,
finger-to-nose bilaterally; clumsy fine finger movements and no
degradation with RAM.  Heel-to-shin intact but very slow and
incomplete, only able to come upto mid-way likely due to his
weakness.
 
Gait: Unable to test because pt very unsteady on feet - unable 
to
even stand without assistance.

 
Pertinent Results:
___ 11:10PM BLOOD WBC-6.7 RBC-4.56* Hgb-11.6* Hct-37.7* 
MCV-83 MCH-25.5* MCHC-30.9* RDW-14.4 Plt ___
___ 11:10PM BLOOD ___ PTT-24.3 ___
___ 11:10PM BLOOD Glucose-102 UreaN-14 Creat-0.7 Na-143 
K-3.3 Cl-104 HCO3-32 AnGap-10
___ 12:40PM BLOOD ALT-16 AST-21 AlkPhos-82 TotBili-0.6
___ 11:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Echo (TTE) on ___:
The left atrium is mildly dilated. The right atrium is 
moderately dilated. Due to suboptimal technical quality, a focal 
wall motion abnormality cannot be fully excluded. Overall left 
ventricular systolic function is normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. There 
are three aortic valve leaflets. There is no aortic valve 
stenosis. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Trivial mitral regurgitation is 
seen. There is a small pericardial effusion. 

CT of lumbar spine: No evidence of fracture. STIR edema in the 
L4 vertebral body seen on the prior MR study earlier today may 
be due to contusion. 

MRI of brain:  Evidence of remote infarction involving the right 
temporo-occipital area and right occipital lobe. This was a 
significantly limited examination due to motion artifact related 
to patient agitation. 

 
Brief Hospital Course:
He is a ___ male with poorly controlled DM, HTN, 
hypercholesterolemia, OSA and hx of bilateral knee replacements 
with residual bilateral iliopsoas weakness hence walking with 
cane/walker at baseline.  He came in with hx of acute worsening 
of weakness on the morning of admission causing him to unable to 
get out of the bed plus hx of tripping over and falling ~3 weeks 
prior to admission.

He had imaging of his spine including CT of L spine which showed 
no fracture or acute trauma.  He was able to walk with 
assistance on hospital day #1 and his major issue was his 
uncontrolled HTN.  His BP remained labile during this admission 
and initially his SBP was up to 200's and his lisinopril was 
titrated up.  However, he showed acute change in mental status 
and was profoundly more confused on HD#2 --> stat MRI of head 
was done although a very poor study showed a possible acute 
lacunar stroke in L frontal lobe.  Given that the image finding 
did not correlate with the physical finding, he underwent EEG 
studying which showed generalized slowing consistent with 
encephalopathy but no epileptiform focus.  Its unlikely that his 
increased confusion was secondary to a seizure given that he 
does not have seizure hx hence he does not warrant any 
anti-seizure medications at this point.

His mental status cleared up gradually within a span of ~24 hrs 
although he continues to be more confused early morning.  Given 
that he has severe COPD at baseline and is a CO2 retainer 
(baseline HCO2 around ~35), he may have had hypoxia (from 
supplemental O2 hence depressing his respiratory drive) induced 
transient encephalopathy that was exacerbated by Ativan given 
for MRI studies.  

Repeat MRI on HD#3 showed no acute stroke but lots of white 
matter disease consistent with chronic small vessel disease plus 
an old R parieto-occipital infarct consistent with L inferior 
hemianopsia found on physical exam.  Although his BP remained 
labile, pt was relatively normotensive >24hrs prior to 
discharge.

He also had TTE (transthoracic echo) performed on ___ which 
showed relatively well-preserved LVEF of 55% with no visible 
thrombus.  He is discharged with no medication changes and is 
recommended to continue home meds as before including CPAP at 
night.   

Given that he needs acute rehab for further physical and 
occupational therapy, he will be discharged to ___ 
___ short term (less than 30 days predicted) rehab.  Once 
again, there is no changes to his home meds and he requires CPAP 
at night and when in bed.  He has his own CPAP machine.  

Discharge summary will be faxed to his PCP, ___ 
(He is scheduled to follow-up with Dr. ___ on ___ 
___ for update of this admission.  Mr. ___ needs close 
follow up of his blood pressure, DM control and thrombocytopenia 
(platelets around 120's but no bleeding issues during this 
admission) of unknown duration.  

Also, Mr. ___ will be contacted with follow up appointment 
with me at the outpatient neurology clinic ___ Floor 
8) and the Movement Disorder Clinic for a new patient 
evaluation.
 
Medications on Admission:
Allopurinol ___ daily  
Cymbalta 30 daily  
Flomax 0.4mg daily  
glipizide 20mg BID  
insulin Humalog 14 units befofe meals and bed time.  
Lantus 40 units at bedtime.  
lyrica 50mg daily  
Lasix 40mg daily  
lisinopril 5mg daily  
Coreg 50mg BID  
methyldopa - Alpha2-Adrenergic Agonist — Hypertension: 1000mg 
BID

micardis - telmisartan - Angiotensin II Receptor Blocker: 25mg
BID  
mucinex ___ BID  
MVI  
pepcid 40mg BID  
Protonix 40mg daily  
Zoloft 50mg daily.  
Zocor 10mg daily  
Enablex - ? dose  
Inspra - Eplerenone - aldosterone blocker - antihypertensive:
50mg BID  
CPAP at night and oxygen at night.
 
Discharge Medications:
1. Allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
3. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO DAILY (Daily).  
4. Lyrica 50 mg Capsule Sig: One (1) Capsule PO daily () for 5 
days.  
5. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Carvedilol 25 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
7. Mucinex 1,200 mg Tab, Multiphasic Release 12 hr Sig: One (1) 
Tab, Multiphasic Release 12 hr PO bid ().  
8. Multivitamins     Tablet, Chewable Sig: One (1) Cap PO DAILY 
(Daily).  
9. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
10. Sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Eplerenone 50 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
13. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
14. Valsartan 160 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
15. Albuterol 90 mcg/Actuation Aerosol Sig: One (1) Puff 
Inhalation Q4H (every 4 hours) as needed for wheezes.  
16. Methyldopa 500 mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours).  
17. GlipiZIDE 10 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
18. Outpatient Physical Therapy
Please evaluate and treat.
19. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute worsening of chronic bilateral iliopsoas weakness.
Uncontrolled HTN
COPD 
OSA - requires CPAP at night and when sleeping

 
Discharge Condition:
Ambulatory with a walker - discharge to ___ 
for acute short term rehab (less than 30 days).

 
Discharge Instructions:
  
You came in with acute worsening of your bilateral weakness - 
you have been evaluated for possible causes of your weakness.  
You did not have a new stroke or spinal cord problems.  You are 
now back to able to walk with a walker but will be need short 
term acute rehab (less than 30 days) for physical and 
occupational therapy before safe discharge to home.

There has been no changes to your medications - please take them 
as before.  Also, please follow-up with Dr. ___ 
(PCP) as scheduled.  Discharge summary will be faxed over to him 
to update him of this this hospital admission and course.

Please be sure to walk with a walker, take meds as scheduled and 
use CPAP at night or when you are taking naps.  
 
Followup Instructions:
___